US09284271B2
A mixture of (4-chlorophenyl)hydrazine hydrochloride (5.26 g; 28.50 mmol) and 3,4-dihydro-2H-pyran (2.63 mL; 28.50 mmol) in a mixture of water (9 mL) and dioxane (36 mL) was stirred at 100° C. for 48 hours. After cooling to room temperature the mixture was diluted with ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate. The combined organic layers were dried over magnesium sulphate, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (eluent: 0 to 6% methanol in dichloromethane) to afford 3.85 g (64%) of 3-(5-Chloro-1H-indol-3-yl)propan-1-ol as an oily residue.

reactant | (4-chlorophenyl)hydrazine hydrochloride | 28.50 mmol, 5.26 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 3,4-dihydro-2H-pyran | 28.50 mmol, 2.63 mL | O1CCCC=C1 | C5H8O
solvent | water | 9 mL | O | H2O
solvent | dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-Chloro-1H-indol-3-yl)propan-1-ol | 3.85 g, 64% | ClC=1C=C2C(=CNC2=CC1)CCCO | C11H12ClNO
